US07553854B2
Step 1. Synthesis of 2-((1R,2R)-2-hydroxycyclohexylamino)-7-methylbenzo[d]thiazol-6-ol
To the solution of 7-bromo-2-((1R,2R)-2-hydroxycyclohexylamino)benzo[d]thiazol-6-ol (117 mg, 0.34 mmol, 1.0 eq) in 1 mL DMF in a microwave vial was added trimethylboraxine (128 mg, 1.02 mmol, 3.0 eq), Pd(Cl2)dPPf (27 mg, 0.034 mmol, 0.1 eq) and 1 mL of 2M Na2CO3 solution at room temperature. Thereafter, the reaction mixture was heated in the microwave at 120° C. for 15 minutes. The reaction was quenched with saturated NaHCO3 solution (25 ml) and the aqueous phase extracted with ethyl acetate (50 mL×3), combined organic layers dried over Na2SO4, filtered and condensed under reduced pressure. Purification over ISCO using a gradient of 0%-18% methanol-DCM gave 17 mg of product as brownish powder in 17% yield. LC/MS (m/z) [279.1] (MH+)

reactant | 7-bromo-2-((1R,2R)-2-hydroxycyclohexylamino)benzo[d]thiazol-6-ol | 0.34 mmol, 117 mg, 1.0 eq | BrC1=C(C=CC=2N=C(SC21)N[C@H]2[C@@H](CCCC2)O)O | C13H15BrN2O2S
reactant | Na2CO3 | 2M, 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-((1R,2R)-2-hydroxycyclohexylamino)-7-methylbenzo[d]thiazol-6-ol | 17 mg, 17% yield | O[C@H]1[C@@H](CCCC1)NC=1SC2=C(N1)C=CC(=C2C)O | C14H18N2O2S
